US04219560
To a flask equipped with stirrer, dropping funnel and under a nitrogen atmosphere there is added 4.8 g. (0.126 mole) of lithium aluminum hydride to 250 ml. of anhydrous tetrahydrofuran. The resulting suspension is stirred and treated dropwise with a solution of 10.0 g. (0.036 mole) of 1-methyl-2-(3,4-methylenedioxyphenyl)-6-oxonipecotic acid in anhydrous tetrahydrofuran at such a rate that reflux occurs. The mixture is then stirred and refluxed for about 24 hours, cooled in an icebath and treated successively with 5 ml. of saturated sodium chloride solution, 5 ml. of 15% sodium hydroxide and 15 ml. of water and after separation stirred for an additional 2 hours. The resulting solid is filtered off and washed with tetrahydrofuran. The combined filtrates are then concentrated to yield 1-methyl-2-(3,4-methylenedioxyphenyl)-3-piperidinemethanol as an oil. The product is then dissolved in anhydrous methanol and saturated with dry hydrogen chloride gas. The solution is then concentrated to about 12 ml. and approximately 60 ml. of diethyl ether is then added. After stirring for 2 hours at room temperature the resultant solid is filtered off to give the hydrochloride salt of the title compound; m.p. 198° to 200° C.

reactant | lithium aluminum hydride | 0.126 mole | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-methyl-2-(3,4-methylenedioxyphenyl)-6-oxonipecotic acid | 0.036 mole | CN1C(C(C(=O)O)CCC1=O)C1=CC2=C(C=C1)OCO2 | C14H15NO5
reactant | sodium chloride | [Cl-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-methyl-2-(3,4-methylenedioxyphenyl)-3-piperidinemethanol | CN1C(C(CCC1)CO)C1=CC2=C(C=C1)OCO2 | C14H19NO3
